US07417062B2
Step 1: (2S,3aS,7aS)-2-{[(Benzo[b]thiophen-2-ylmethyl)-amino]-methyl}-octahydro-indole-1-carboxylic acid tert-butyl ester.
Experimental conditions analogous to Example 1, from 0.1 g (0.63 mmol) of benzo[b]thiophene-2-carbaldehyde, 0.16 g (0.63 mmol) of (2S,3aS,7aS)-2-aminomethyl-octahydro-indole-1-carboxylic acid tert-butyl ester, 10 mL dichloromethane, and 0.2 g (0.94 mmol) of sodium triacetoxyborohydride. The reaction was quenched with aqueous sodium bicarbonate. The residue from the organic layer was purified using flash chromatography (ethyl acetate in hexane), yield 130 mg of the free base as colorless oil. LC-MSD, m/z for C23H32N2O2S [M+H]+: 401.6, [M+H-isobutylene]+: 345.5.

reactant | benzo[b]thiophene-2-carbaldehyde | 0.63 mmol, 0.1 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | (2S,3aS,7aS)-2-aminomethyl-octahydro-indole-1-carboxylic acid tert-butyl ester | 0.63 mmol, 0.16 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)CN | C14H26N2O2
reactant | sodium triacetoxyborohydride | 0.94 mmol, 0.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S,3aS,7aS)-2-{[(Benzo[b]thiophen-2-ylmethyl)-amino]-methyl}-octahydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)CNCC1=CC2=C(S1)C=CC=C2 | C23H32N2O2S
